US04116966
5,11-Dihydro-3-methyl-11-oxo-1-benzoxepino[4,3-c]pyridine-4-carbonitrile
A solution of 8.16 g (0.04 mole) of 2,3-dihydro-5-hydroxy-3-oxo-1-benzoxepin-4-carboxaldehyde, 4.92 g (0.06 mole) of 3-aminocrotononitrile and 50 ml of absolute ethanol was maintained at reflux for 10 min. and cooled. The separated crystals were filtered, washed with 10 ml ethanol and dried, wt. 5.2 g (52%); mp 124°-126°. Recrystallization was effected by dissolution in 75 ml of 50% dichloromethane-ethanol and removal, by distillation, of most of the dichloromethane. The pure product separated as tan crystals; wt. 2.9 g (29%), mp 126°-128°.

reactant | 2,3-dihydro-5-hydroxy-3-oxo-1-benzoxepin-4-carboxaldehyde | 0.04 mole, 8.16 g | OC1=C(C(COC2=C1C=CC=C2)=O)C=O | C11H8O4
reactant | 3-aminocrotononitrile | 0.06 mole, 4.92 g | N\C(=C/C#N)\C | C4H6N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5,11-Dihydro-3-methyl-11-oxo-1-benzoxepino[4,3-c]pyridine-4-carbonitrile | CC1=C(C2=C(C=N1)C(C1=C(OC2)C=CC=C1)=O)C#N | C15H10N2O2
